US07205318B2
A mixture of 4-bromo-2-fluoro-benzoic acid methyl ester (1.17 g, 5.0 mmol), 2-hydroxypyridine (0.72 g, 7.5 mmol, 1.5 eq), K2CO3 (1.38 g, 10.0 mmol, 2.0 eq), CuI (0.48 g, 2.5 mmol, 0.5 eq), and N,N′-dimethylethylenediamine (0.22 mL, 2.6 mmol, 0.5 eq) was heated in refluxing toluene (6 mL) for 8 h. After cooling, EtOAc was added. The mixture was filtered through a pad of silica gel and rinsed with EtOAc. The desired fractions were concentrated in vacuo to give essentially pure 2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-benzoic acid methyl ester (1.05 g, yield: 84%). 1H NMR (CDCl3) δ 8.07 (t, J=8.0 Hz, 1H), 7.14 (m, 1H), 7.33–7.27 (m, 3H), 6.64 (m, 1H), 6.28 (m, 1H), 3.96 (s, 3H) ppm. LC/MS (ESI) 248.05 (M+H), tR=2.05 min (10–90% MeOH in H2O with 10 mM NH4OAc in a 4-min run).

reactant | 4-bromo-2-fluoro-benzoic acid methyl ester | 5.0 mmol, 1.17 g | COC(C1=C(C=C(C=C1)Br)F)=O | C8H6BrFO2
reactant | 2-hydroxypyridine | 7.5 mmol, 0.72 g, 1.5 eq | OC1=NC=CC=C1 | C5H5NO
reactant | K2CO3 | 10.0 mmol, 1.38 g, 2.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 2.6 mmol, 0.22 mL, 0.5 eq | CNCCNC | C4H12N2
catalyst | CuI | 2.5 mmol, 0.48 g, 0.5 eq | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-benzoic acid methyl ester | 1.05 g, yield: 84% | COC(C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C13H10FNO3
